US08859573B2
2-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}-5-[({1-[(1-methyl-1H-pyrazol-4-yl)methyl]-2-oxo-1,2-dihydro-4-pyridinyl}oxy)methyl]benzonitrile
To a solution of 2-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}-5-{[(2-oxo-1,2-dihydro-4-pyridinyl)oxy]methyl}benzonitrile (60 mg, 0.143 mmol) in N,N-dimethylformamide (2 mL) was added Sodium hydride (40 mg, 1.00 mmol) at rt in one portion. After stirring at rt for 10 min, 4-(chloromethyl)-1-methyl-1H-pyrazole (40 mg, 0.306 mmol) was added. The reaction mixture was heated at 60° C. in the microwave for 30 min, then quenched by addition of methanol, concentrated. Purification via Biotage-C18 system afforded the title product (13.6 mg) as a white solid. LC-MS (ESI): m/z 515 [M+H]+; 3.36 min (ret time).

reactant | 2-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}-5-{[(2-oxo-1,2-dihydro-4-pyridinyl)oxy]methyl}benzonitrile | 0.143 mmol, 60 mg | ClC1=C(C=C(C=C1)OC1=C(C#N)C=C(C=C1)COC1=CC(NC=C1)=O)C(F)(F)F | C20H12ClF3N2O3
reactant | Sodium hydride | 1.00 mmol, 40 mg | [H-].[Na+]
reactant | 4-(chloromethyl)-1-methyl-1H-pyrazole | 0.306 mmol, 40 mg | ClCC=1C=NN(C1)C | C5H7ClN2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 2-{[4-Chloro-3-(trifluoromethyl)phenyl]oxy}-5-[({1-[(1-methyl-1H-pyrazol-4-yl)methyl]-2-oxo-1,2-dihydro-4-pyridinyl}oxy)methyl]benzonitrile | 13.6 mg | ClC1=C(C=C(C=C1)OC1=C(C#N)C=C(C=C1)COC1=CC(N(C=C1)CC=1C=NN(C1)C)=O)C(F)(F)F | C25H18ClF3N4O3
